US05750696
3-methyl-2,3-bis(trimethylsilyloxy)-1-butene
A solution of 1.6M n-butyllithium/n-hexane solution (100 ml) was dropwise added to a solution of diisopropylamine (22.4 ml) in dry tetrahydrofuran (50 ml) at -10° C., and the mixture was stirred for 1 hour. A solution of 3-hydroxy-3-methyl-2-butanone (8 ml) in dry tetrahydrofuran (50 ml) was dropwise added at -10° C. and the mixture was stirred for 1 hour. Then, trimethylchlorosilane (20.4 ml) was dropwise added at -10° C. After stirring at 4° C overnight, the reaction mixture was filtered with celite and the solid was washed with diethyl ether (500 ml). The combined filtrate was washed with 1N hydrochloric acid (150 ml×2) and a saturated aqueous solution of NaHCO3 (150 ml×2), and dried over MgSO4. The solvent was distilled away under reduced pressure. The residue was distilled under reduced pressure to give 16 g of the title compound (bp=85°-90° C./20 mmHg) as colorless liquid (see Table 2).

reactant | n-butyllithium n-hexane | 1.6M, 100 ml | C(CCC)[Li].CCCCCC
reactant | diisopropylamine | 22.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-hydroxy-3-methyl-2-butanone | 8 ml | OC(C(C)=O)(C)C | C5H10O2
reactant | trimethylchlorosilane | 20.4 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-methyl-2,3-bis(trimethylsilyloxy)-1-butene | 16 g | CC(C(=C)O[Si](C)(C)C)(C)O[Si](C)(C)C | C11H26O2Si2
